US04707485
To a stirred solution of 1.7 g (5.17 mmole) of 2-benzoyl-6,7-dichloro-1-cyano-1,2-dihydroisoquinoline, 1.16 g (5.37 mmole) of 3,4,5-trimethoxybenzyl chloride and 0.118 g (0.517 mmole) of benzyltriethylammonium chloride in 25 ml of toluene, under nitrogen, was added 7.2 ml of 50% sodium hydroxide solution. The mixture was stirred vigorously at ambient temperature for 2 hours, and then 25 ml of water and 25 ml of methylene chloride was added. The organic layer was separated, washed with water, dried over magnesium sulphate and concentrated to give 2-benzoyl-1-(3,4,5-trimethoxybenzyl)-6,7-dichloro-1-cyano-1,2-dihydroisoquinoline, m.p. 193°-195° C., after recrystallization from acetonitrile.

reactant | 2-benzoyl-6,7-dichloro-1-cyano-1,2-dihydroisoquinoline | 5.17 mmole, 1.7 g | C(C1=CC=CC=C1)(=O)N1C(C2=CC(=C(C=C2C=C1)Cl)Cl)C#N | C17H10Cl2N2O
reactant | 3,4,5-trimethoxybenzyl chloride | 5.37 mmole, 1.16 g | COC=1C=C(CCl)C=C(C1OC)OC | C10H13ClO3
reactant | sodium hydroxide | 7.2 ml | [OH-].[Na+]
reactant | water | 25 ml | O | H2O
catalyst | benzyltriethylammonium chloride | 0.517 mmole, 0.118 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | 2-benzoyl-1-(3,4,5-trimethoxybenzyl)-6,7-dichloro-1-cyano-1,2-dihydroisoquinoline | C(C1=CC=CC=C1)(=O)N1C(C2=CC(=C(C=C2C=C1)Cl)Cl)(C#N)CC1=CC(=C(C(=C1)OC)OC)OC | C27H22Cl2N2O4
